US05189046
To a suspension of 9.0 g (70.2 mmol) of (S)-piperidine-2-carboxamide (prepared by the method of Geotz Hardtmann, William Houlihan and Rudolf Giger, U.S. Pat. No. 4,760,065) in 100 mL of methylene chloride was added 24.0 g (140.4 mmol) of benzyl bromide and 7.2 g (70.2 mmol) of triethylamine. The mixture was stirred at room temperature for 24 h and washed with 1N aqueous sodium hydroxide. The organic layer was dried over anhydrous sodium sulfate and solvent was removed at reduced pressure. The residue was purified by silica gel chromatography using hexane:ethyl acetate (1:1) as eluent to give (S)-N-benzyl-piperidine-2-carboxamide (12.2 g, 80%), mp 103°-104° C., specific rotation=-90.7° (c=2.5, ethanol).

reactant | (S)-piperidine-2-carboxamide | 70.2 mmol, 9.0 g | N1[C@@H](CCCC1)C(=O)N | C6H12N2O
reactant | benzyl bromide | 140.4 mmol, 24.0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 70.2 mmol, 7.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-benzyl-piperidine-2-carboxamide | 12.2 g, 80% | C(C1=CC=CC=C1)NC(=O)[C@H]1NCCCC1 | C13H18N2O
